US09238647B2
Step D: Methy 6-amino-4′-fluoro-5-[(2-hydroxy-2-methylpropyl)amino]biphenyl-3-carboxylate
To a mixture of methy 4-amino-3-bromo-5-[(2-hydroxy-2-methylpropyl)amino]benzoate (513 mg, 1.617 mmol), palladium(II) acetate (7.26 mg, 0.032 mmol), (4-fluorophenyl)boronic acid (453 mg, 3.23 mmol) and 4,4′,4″-phosphinetriyltribenzenesulfonic acid-sodium salt (48.8 mg, 0.097 mmol) were added DMF (2.43 mL) and water (0.809 mL) followed by diisopropylamine (0.461 mL, 3.23 mmol). The reaction was capped and heated at 80° C. for 2 h. The reaction was cooled, quenched with saturated sodium bicarbonate and diluted with EtOAc. The aqueous layers were washed with EtOAc (2×) and the combined organics were washed with water (3×) and brine (1×). Organics were dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% TFA) gave the title compound (377 mg): LC-MS [M+1]=333.3.

reactant | methy 4-amino-3-bromo-5-[(2-hydroxy-2-methylpropyl)amino]benzoate | 1.617 mmol, 513 mg | NC1=C(C=C(C(=O)OC)C=C1NCC(C)(C)O)Br | C12H17BrN2O3
reactant | (4-fluorophenyl)boronic acid | 3.23 mmol, 453 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | DMF | 2.43 mL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 3.23 mmol, 0.461 mL | C(C)(C)NC(C)C | C6H15N
catalyst | palladium(II) acetate | 0.032 mmol, 7.26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 4,4′,4″-phosphinetriyltribenzenesulfonic acid sodium | 0.097 mmol, 48.8 mg | P(C1=CC=C(C=C1)S(=O)(=O)O)(C1=CC=C(C=C1)S(=O)(=O)O)C1=CC=C(C=C1)S(=O)(=O)O.[Na]
solvent | water | 0.809 mL | O | H2O
product | Methy 6-amino-4′-fluoro-5-[(2-hydroxy-2-methylpropyl)amino]biphenyl-3-carboxylate | 377 mg | NC1=C(C=C(C=C1C1=CC=C(C=C1)F)C(=O)OC)NCC(C)(C)O | C18H21FN2O3
